US07495110B2
Stage 3: 2-[(3-bromobenzyl)thio]-1-{3-[methyl(2-pyridin-2-ylethyl)amino]propyl}-1H-benzimidazole-5-carboxylic acid
Lithium hydroxide (0.315 g, 3 eq) is added to a solution of methyl 2-[(3-bromobenzyl)thio]-1-{3-[methyl(2-pyridin-2-ylethyl)amino]propyl}-1H-benzimidazole-5-carboxylate (1.03 g, 1 eq) in a mixture of tetrahydrofuran (10 ml) and water (5 ml). The mixture is heated under reflux for 18 hours then cooled down to ambient temperature and concentrated under reduced pressure at 40° C. Ethyl acetate and water are added to the residue. The mixture is acidified by adding acetic acid to pH 5. After decanting and extracting, the combined organic phases are dried over sodium sulphate and concentrated under reduced pressure. Purification by flash chromatography on silica gel (eluent: dichloromethane/methanol 95/5 to 80/20) produces the expected compound in the form of a foam (0.85 g, 85% yield).

reactant | Lithium hydroxide | 0.315 g, 3 eq | [OH-].[Li+]
reactant | methyl 2-[(3-bromobenzyl)thio]-1-{3-[methyl(2-pyridin-2-ylethyl)amino]propyl}-1H-benzimidazole-5-carboxylate | 1.03 g, 1 eq | BrC=1C=C(CSC2=NC3=C(N2CCCN(CCC2=NC=CC=C2)C)C=CC(=C3)C(=O)OC)C=CC1 | C27H29BrN4O2S
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | 2-[(3-bromobenzyl)thio]-1-{3-[methyl(2-pyridin-2-ylethyl)amino]propyl}-1H-benzimidazole-5-carboxylic acid | BrC=1C=C(CSC2=NC3=C(N2CCCN(CCC2=NC=CC=C2)C)C=CC(=C3)C(=O)O)C=CC1 | C26H27BrN4O2S
